US06140274
In a reaction vessel containing 9.02 g of 1,4-butanediol was put 2.20 g of 60% sodium hydride (in oil), and the mixture was stirred until the evolution of hydrogen gas ceased, to which 7.28 g of 1,1,3-trichloro-1-propene was added dropwise under ice cooling. The reaction mixture was slowly warmed and stirred at 60° C. for 3 hours, which was then poured into water and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over magnesium sulfate and then concentrated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 1.40 g of 4-(3,3-dichloro-2-propenyloxy)butanol (yield, 14%).

reactant | 1,4-butanediol | 9.02 g | C(CCCO)O | C4H10O2
reactant | sodium hydride | 2.20 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1,1,3-trichloro-1-propene | 7.28 g | ClC(=CCCl)Cl | C3H3Cl3
solvent | water | O | H2O
product | 4-(3,3-dichloro-2-propenyloxy)butanol | 1.40 g, 14% | ClC(=CCOCCCCO)Cl | C7H12Cl2O2
